US05102906
A mixture of 5.64 g (29 mM) of 4-n-butylveratrole, 18.54 g (309 mM) of acetic acid and 55.62 g (323 mM) of 47% hydrobromic acid was heated under reflux for 4 hours with stirring. The reaction mixture was cooled to the room temperature and added with 50 ml of eater. The separated oil was extracted with ether. The ether solution was successively washed with 50 ml of water, 75 g of 5% aqueous sodium thiosulfate solution, and further twice with each 50 ml of water. The resulting solution was dried with anhydrous sodium sulfate, distilled off ether, and vacuum distilled to obtain 3.89 g (23 mM) of n-butylcatechol as light yellow liquid having a boiling point of 125° C./3 mmHg.

reactant | 4-n-butylveratrole | 29 mM, 5.64 g | C(CCC)C=1C=C(C(=CC1)OC)OC | C12H18O2
reactant | hydrobromic acid | 323 mM, 55.62 g | Br | BrH
reactant | acetic acid | 309 mM, 18.54 g | C(C)(=O)O | C2H4O2
product | n-butylcatechol | 23 mM, 3.89 g | C(CCC)C1=C(C(O)=CC=C1)O | C10H14O2
